Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole
 
Attending: ___.
 
Chief Complaint:
CC: ___ Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y/o F with PMHx of ovarian CA s/p TAH-BSO, 
who presented with sudden onset chest pain and shortness of 
breath during first dose of Taxol today. Per patient report, 
while Taxol was infusing, she developed redness and swelling of 
the face and neck with associated sharp central chest pain and 
shortness of breath. Chest pain was worse with breathing and 
movement. She also felt whole body aching, headache, and 
shaking. She was given 1 mg morping IV x 2, ativan 0.5 mg IV, 
and 100 mg hydrocortisone. She was sent to the ED for 
evaluation. 

In ED, exam was reportedly significant for fine petechial rash 
over upper chest and neck. EKG showed normal axis, no R heart 
strain, no ST elevation.
 
ED Course:
Initial VS: 98.5 85 155/77 18 100%RA
Labs significant for Hct 35.5, DDimer 4215.
Imaging: CTA chest without acute process. CXR with no acute 
process (my read).
Meds given: morphine 5 mg IV x 4, acetaminophen 1000 mg PO, 
zofran 4 mg IV, ketorolac 30 mg IV.
VS prior to transfer: 98.3 80 ___ 98%RA Pain ___
 
On arrival to the floor, the patient reports ongoing sharp chest 
pain that is worse with breathing. Pain has improved since 
initial presentation, though. She also still reports some 
generalized body aches. Her shortness of breath, headache, and 
facial swelling have resolved. Of note, she does also report 
diarrhea on the day prior to presentation.
 
ROS: As above. Denies sore throat, sinus congestion, heart 
palpitations, shortness of breath, cough, nausea, vomiting, 
constipation, urinary symptoms, muscle or joint pains, focal 
numbness or tingling, skin rash. The remainder of the ROS was 
negative. 
 
Past Medical History:
PMH:
- ovarian CA as above
- viral encephalitis at age ___ resulting in developmental delay & 
learning disabilities
- vitiligo
- depression
- IBS
- Raynaud's disease

PSH: 
- wrist surgery x 2
- sinus surgery x 2
- laparoscopic right ovarian cystectomy as above
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.
 
Physical Exam:
VS - 97.8 131/95 73 18 99%RA Pain ___
GEN - Alert, NAD
HEENT - NC/AT, MMM
NECK - Supple
CV - RRR, no m/r/g, reproducible CP on palpation
RESP - CTAB
ABD - S/NT/ND, BS present, healing surgical scar
EXT - no calf tenderness ___ edema
SKIN - periorbital vitiligo; otherwise, no apparent rashes
NEURO - non-focal
PSYCH - calm, appropriate

At discharge, normal exam, non-distended, soft belly. 
Ambulatory. Slightly anxious. Reported constipation, but did 
have BM after constipation medications. Able to take po's. 
Brother and family friend at bedside and will take patient home. 

 
Pertinent Results:
___ 05:30PM BLOOD WBC-8.3# RBC-4.28 Hgb-11.6* Hct-35.5* 
MCV-83 MCH-27.0 MCHC-32.6 RDW-13.7 Plt ___
___ 05:30PM BLOOD Neuts-93.4* Lymphs-4.6* Monos-0.9* 
Eos-0.5 Baso-0.7
___ 05:30PM BLOOD ___ PTT-36.2 ___
___ 05:30PM BLOOD Glucose-134* UreaN-8 Creat-0.7 Na-141 
K-4.0 Cl-107 HCO3-23 AnGap-15
___ 09:15AM BLOOD Albumin-4.3 Calcium-9.5
___ 06:56PM BLOOD D-Dimer-4215*

ECG - SR, no evidence of ischemia of right heart strain

CTA Chest - IMPRESSION: 
1. No acute aortic syndrome or pulmonary embolism is identified. 

2. No acute cardiopulmonary process. 
3. Of note, the Port-A-Cath tip extends well into the right 
atrium. 

CXR - no acute process (my read)

DISCHARGE LABS.

___ 05:40AM BLOOD WBC-6.6 RBC-3.79* Hgb-10.3* Hct-31.4* 
MCV-83 MCH-27.2 MCHC-32.9 RDW-13.9 Plt ___
___ 02:01PM BLOOD ESR-46*
___ 05:40AM BLOOD UreaN-11 Creat-0.7
___ 05:57AM BLOOD Glucose-88 UreaN-12 Creat-0.6 Na-142 
K-3.5 Cl-106 HCO3-30 AnGap-10
___ 02:01PM BLOOD LD(LDH)-192
___ 05:57AM BLOOD ALT-12 AST-12 AlkPhos-81 TotBili-0.1
___ 02:01PM BLOOD CRP-3.___ with PMHx of ovarian CA s/p TAH-BSO, who presented with 
sudden onset chest pain and shortness of breath during first 
dose of Taxol on ___. She was given IV steroids, H2 and H1 
blockers in the clinic. The chest pain improved from ___. 
Unlikely cardiac in origin and CTPA showed no PE. Chest pain 
thought to be musculoskeletal given hyperventilation and pt was 
in extremis. Oxycodone use helped with pain. Pt also has 
component of anxiety as well as feeling hot. Could be sequella 
of oopherectomy. She also had constipation and was treated with 
bowel meds. She had a BM and was stable for discharge today. She 
did state she wanted to stay for further management of her 
abdominal discomfort. After discussion with her that she most 
likely did not need acute hospital management for her abdominal 
pain associated with constipation at this time, she agreed to be 
discharged today. Labs were reviewed. Abdominal exam was 
performed revealing a soft and non-distended abdomen. BS were 
present. This discussion was held with her brother and her 
mother was also contacted by phone. The family and patient all 
agreed to the discharge plans. Other hospitalization details are 
below.
.
# CP/SOB/Facial Flushing: Likely reaction to new chemotherapy 
agent. Symptoms improved with steroids, but then worsened next 
morning. CTA was negative for PE and ECG did not have any 
concerning ischemic changes, making PE or cardiac etiology less 
likely.
- telemetry normal.
- cardiac enzymes negative. 
- oxycodone or iv morphine for pain
- zofran for nausea
- continue steroids with prednisone for ___ more days. Now d/cd. 
no need for extended treatment at home.
.
# Ovarian CA: S/p TAH-BSO. Was supposed to start on Taxol but 
had reaction as described above.
- contacted primary oncologist Dr. ___, who will 
determine next steps of cancer care.
.
# Rash - contact dermatitis from soap given history, vs late 
sequella from Taxol?
- IV benadryl and topical hydrocortisone. 
- monitor closely for resolution or spread. Resolving.
.
# Hot flash/prolonged sensation
- Has had this for sometime, unclear if before or after 
oopherectomy. 
- ___ due to removal of ovaries. 
- Conservative cooling measures for now.
.
# Depression: cont. home cymbalta
- Anxiety component - try lorazepam po
.
# Anemia - ? dilutional. ?Chemo related, though early for this. 
Monitor. 
.
# Thrombocytopenia - Stablizing. DDx: drug induced, HIT, chemo.
- review med list. 
.
# Connective Tissue Disease
- seen by Dr. ___. 
- On hydroxychloroquine, maybe partially causing 
thrombocytopenia. Consider contacting ___ rheum MD for this 
matter. 
- Check ESR and CRP. Got steroids for this hospitalization. 
.
# headache - oxycodone relieved it. Monitor. 
.
# Constipation - bowel regimen. Monitor. 
.
# FEN: Regular diet, repleted lytes PRN
# PPX: heparin SC
# CODE: full
# IV access - port, appears clean.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Gabapentin 300 mg PO BID 
at noon and at night 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Hydroxychloroquine Sulfate 400 mg PO DAILY 
5. DiCYCLOmine 20 mg PO QID:PRN stomach pain 
6. Lorazepam 0.5-1 mg PO Q8H:PRN nausea or vomiting 
7. Multivitamins 1 TAB PO DAILY 
8. Ibuprofen 800 mg PO PRN pain 
9. Omeprazole 40 mg PO DAILY 
10. Loratadine *NF* 10 mg Oral daily 
11. Duloxetine 60 mg PO DAILY 
12. Amitriptyline 10 mg PO HS:PRN insomnia 
hold for oversedation 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS:PRN insomnia 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO BID 
4. Hydroxychloroquine Sulfate 400 mg PO DAILY 
5. Loratadine *NF* 10 mg Oral daily 
6. Lorazepam 0.5-1 mg PO Q8H:PRN nausea or vomiting 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. DiphenhydrAMINE 50 mg PO Q6H:PRN itchiness 
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1
12. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram 1 packet by mouth once a 
day Disp #*30 Packet Refills:*1
14. DiCYCLOmine 20 mg PO QID:PRN stomach pain 
15. Ibuprofen 800 mg PO PRN pain 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea 
17. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian Cancer
Taxol infusion reaction
Constipation
Chest pain
Headache
Hot Flashes/sensation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for an allergic reaction to chemotherapy, 
specifically paclitaxel (also known as TAXOL). You were given 
steroids and other anti-allergy medications (benadryl, 
famotidine) and pain medications to help with this reaction. 
This essentially has resolved and you have recovered from these 
allergic reaction. You do have some mild chest pain that is 
slowly recovering and you will get better from this. The chest 
pain likely is due to hyperventilation and associated muscle 
pain. You did not have a blood in the lung nor a heart attack as 
these were ruled out by imaging and blood test studies. You did 
have some constipation that we gave you medication to treat. You 
should continue to use a bowel regimen (stool softeners, gentle 
laxatives and liquid laxatives) to help maintain bowel 
movements. You had sensations of feeling hot. This may be 
related to your recent operation where your ovaries were 
removed. This may cause a menopause type reaction. You should 
discuss with your doctors what ___ might take to help with hot 
flashes. You platelet level is a bit lower than normal, as 
discussed with you. You take several medications, like 
hydroxychlorquine, which may depress the production of 
platelets. You may need to discuss this with your outpatient 
doctors about which ___ are still needed during this 
time of cancer treatment. 

You will discuss with your primary oncologist, Dr. ___ 
___, about the next steps of your cancer care. She will be 
meeting with you soon. 
 
Followup Instructions:
___